US06177452B1
Water was added to a mixture which was obtained by ) reacting 4-(4-chlorophenyl)-2-(2-pyridylthio)-5-oxazolepropionic acid with iodoethane in the same manner as Example 52. This was extracted with ethyl acetate. The ethyl acetate layer was washed with water, and dried (MgSO4). The residue obtained by evaporated the solvent was subjected to silica gel column chromatography. From the fraction eluted with ethyl acetate-hexane (1:4, v/v), obtained was ethyl 4-(4-chlorophenyl)-2-(2-pyridylthio)-5-oxazolepropionate(yield: 96%) as an oily substance.

reactant | 4-(4-chlorophenyl)-2-(2-pyridylthio)-5-oxazolepropionic acid | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)SC1=NC=CC=C1 | C17H13ClN2O3S
reactant | iodoethane | ICC | C2H5I
solvent | Water | O | H2O
product | ethyl 4-(4-chlorophenyl)-2-(2-pyridylthio)-5-oxazolepropionate | yield: 96% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)OCC)SC1=NC=CC=C1 | C19H17ClN2O3S
